US08980877B2
(±)-(E)-3-[1′-Cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (260 mg, 0.704 mmol) was treated with 1 M NaOH according to the procedure described in Example 16 STEP B to give (±)-(E)-3-[1′-cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid. The acid was treated with NH2OTHP according to the procedure described in Example 16, Step C, giving (±)-(E)-3-[1′-cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide. Removal of the THP protecting group following the procedure described in Example 16, Step C, gave (±)-(E)-3-[1-cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-hydroxy-acrylamide hydrochloride as pale brown solid (109 mg, 38% over three steps).

reactant | (±)-(E)-3-[1′-Cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 0.704 mmol, 260 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)C3CCCC3)OC2=CC1)=O)=O | C22H27NO4
reactant | NaOH | 1 M | [OH-].[Na+]
product | (±)-(E)-3-[1′-cyclopentyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid | C1(CCCC1)N1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C21H25NO4
